US07935725B2
N-(2-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-hexahydro-pyrrolo[3,4-b]pyrrol-1-yl}-2-oxo-ethyl)-2,2,2-trifluoro-acetamide
To a stirred solution of 2-[4-(hexahydro-pyrrolo[3,4-b]pyrrol-5-ylmethyl)-phenoxy]-benzothiazole hydrochloride (100 mg, 0.26 mmol) and Et3N (215 μL, 1.6 mmol) in CH2Cl2 (2 mL) was added N-Boc-glycine (95 mg, 0.5 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (104 mg, 0.5 mmol). The resulting solution was then stirred at rt for 16 h. The resulting mixture was then treated with trifluoroacetic acid (1 mL) at rt for 3 h. The crude solid was dissolved in CH3OH/DMSO (2:1) and purified via reverse phase preparative HPLC to yield the title compound as a fluffy white solid (26 mg, 20%). MS (ESI): mass calcd. for C24H23F3N4O3S, 504.5; m/z found, 505.2 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.74 (d, J=7.7 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.56-7.49 (m, 1H), 7.42-7.26 (m, 6H), 4.55-4.45 (m, 1H), 4.17-3.87 (m, 2H), 3.67 (d, J=13.1 Hz, 1H), 3.60-3.38 (m, 3H), 3.09-2.81 (m, 2H), 2.78-2.54 (m, 2H), 2.52-2.35 (m, 1H), 2.20-2.06 (m, 1H), 2.02-1.87 (m, 1H).

reactant | 2-[4-(hexahydro-pyrrolo[3,4-b]pyrrol-5-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 0.26 mmol, 100 mg | Cl.N1C2C(CC1)CN(C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | Et3N | 1.6 mmol, 215 μL | CCN(CC)CC | C6H15N
reactant | N-Boc-glycine | 0.5 mmol, 95 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.5 mmol, 104 mg | Cl.CN(CCCN=C=NCC)C
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH DMSO | CO.CS(=O)C
product | N-(2-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-hexahydro-pyrrolo[3,4-b]pyrrol-1-yl}-2-oxo-ethyl)-2,2,2-trifluoro-acetamide | 26 mg, 20% | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1CC3N(CCC3C1)C(CNC(C(F)(F)F)=O)=O)C=C2 | C24H23F3N4O3S
